* C:\Users\malen\Desktop\filtroFinal\TC-TPFF\simulaciones\sim_etapasJuntasMonteCarlo.asc
XU1 0 N001 +vcc -vcc N004 TL084
XU2 0 N003 +vcc -vcc vo_1 TL084
XU3 0 N005 +vcc -vcc N002 TL084
R1_1 N002 N001 {mc(4500,tol)}
R2_1 N004 N001 {mc(59600,tol)}
R3_1 N001 N006 {mc(180k,tol)}
R4_1 N003 N004 {mc(59600,tol)}
R5_1 vo_1 N003 {mc(171.5k,tol)}
R6_1 N005 vo_1 {mc(178k,tol)}
R7_1 N003 N006 {mc(180k,tol)}
R8_1 N005 N006 {mc(180k,tol)}
C1_1 N004 N001 {mc(1n,tol}
C2_1 N002 N005 {mc(1n,tol)}
XU4 0 N012 +vcc -vcc N015 TL084
XU5 0 N014 +vcc -vcc vo_2 TL084
XU6 0 N016 +vcc -vcc N013 TL084
R1_2 N013 N012 {mc(4412,tol)}
R2_2 N015 N012 {mc(54190,tol)}
R3_2 N012 vo_1 {mc(180k,tol)}
R4_2 N014 N015 {mc(54190,tol)}
R5_2 vo_2 N014 {mc(185k,tol}
R6_2 N016 vo_2 {mc(178k,tol)}
R7_2 N014 vo_1 {mc(180k,tol)}
R8_2 N016 vo_1 {mc(180k,tol)}
C1_2 N015 N012 {mc(1n,tol}
C2_2 N013 N016 {mc(1n,tol}
XU7 0 N022 +vcc -vcc N025 TL084
XU8 0 N024 +vcc -vcc vo_3 TL084
XU9 0 N026 +vcc -vcc N023 TL084
R1_3 N023 N022 {mc(3150,tol)}
R2_3 N025 N022 66.5k
R3_3 N022 vo_2 {mc(180k,tol)}
R4_3 N024 N025 66.5k
R5_3 vo_3 N024 {mc(197k,tol)}
R6_3 N026 vo_3 {mc(178k,tol)}
R7_3 N024 vo_2 {mc(180k,tol)}
R8_3 N026 vo_2 {mc(180k,tol)}
C1_3 N025 N022 {mc(1n,tol)}
C2_3 N023 N026 {mc(1n,tol)}
XU10 0 N027 +vcc -vcc N030 TL084
XU11 0 N029 +vcc -vcc vo_4 TL084
XU12 0 N031 +vcc -vcc N028 TL084
R1_4 N028 N027 {mc(3332,tol)}
R2_4 N030 N027 {mc(89k,tol)}
R3_4 N027 vo_3 {mc(180k,tol)}
R4_4 N029 N030 {mc(89k,tol)}
R5_4 vo_4 N029 {mc(161k,tol)}
R6_4 N031 vo_4 {mc(178k,tol)}
R7_4 N029 vo_3 {mc(180k,tol)}
R8_4 N031 vo_3 {mc(180k,tol)}
C1_4 N030 N027 {mc(1n,tol)}
C2_4 N028 N031 {mc(1n,tol)}
XU13 0 N007 +vcc -vcc N010 TL084
XU14 0 N009 +vcc -vcc vo_5 TL084
XU15 0 N011 +vcc -vcc N008 TL084
R1_5 N008 N007 {mc(1227,tol)}
R2_5 N010 N007 248k
R3_5 N007 vo_4 {mc(180k,tol)}
R4_5 N009 N010 248k
R5_5 vo_5 N009 {mc(156k,tol)}
R6_5 N011 vo_5 {mc(178k,tol)}
R7_5 N009 vo_4 {mc(180k,tol)}
R8_5 N011 vo_4 {mc(180k,tol)}
C1_5 N010 N007 1n
C2_5 N008 N011 1n
XU16 0 N017 +vcc -vcc N020 TL084
XU17 0 N019 +vcc -vcc vo_6 TL084
XU18 0 N021 +vcc -vcc N018 TL084
R1_6 N018 N017 {mc(1133,tol)}
R2_6 N020 N017 190k
R3_6 N017 vo_5 {mc(180k,tol)}
R4_6 N019 N020 190k
R5_6 vo_6 N019 {mc(205k,tol)}
R6_6 N021 vo_6 {mc(178k,tol)}
R7_6 N019 vo_5 {mc(180k,tol)}
R8_6 N021 vo_5 {mc(180k,tol)}
C1_6 N020 N017 1n
C2_6 N018 N021 1n
V1 N006 0 ac 1
V2 +vcc 0 15
V3 0 -vcc 15
.inc TL084.MOD
.ac dec 100 100 200k
.param tol=0.01
.step dec param run 1 10 10
.backanno
.end
